US07906547B2
N-(4-{4-[(1R,5S)-3-Azabicyclo[3.1.0]hex-3-yl]butoxy}phenyl)acetamide
The experimental procedure is the same as Steps 1 and 2 of Example 3, but replacing the 4-hydroxybenzamide in Step 1 by N-(4-hydroxyphenyl)acetamide.

reactant | 4-hydroxybenzamide | OC1=CC=C(C(=O)N)C=C1 | C7H7NO2
reactant | N-(4-hydroxyphenyl)acetamide | OC1=CC=C(C=C1)NC(C)=O | C8H9NO2
product | N-(4-{4-[(1R,5S)-3-Azabicyclo[3.1.0]hex-3-yl]butoxy}phenyl)acetamide | [C@@H]12CN(C[C@H]2C1)CCCCOC1=CC=C(C=C1)NC(C)=O | C17H24N2O2
